US06002008
Methyl 2-(dimethylaminomethyleneamino)benzoate
To a stirred solution of 7.56 g of methyl anthranilate in 50 ml of dimethylformamide at 0° C. was added 5.6 ml of phosphorous oxychloride during 15 m. The mixture was heated at 55 for 45 m, cooled to 0, and diluted with dichloromethane. The mixture was basified at 0° C. by slow addition of cold 1N NaOH to pH 9. The dichloromethane layer was separated, washed with water, dried and concentrated to an oil.

reactant | methyl anthranilate | 7.56 g | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | phosphorous oxychloride | 5.6 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | 1N | [OH-].[Na+]
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | Methyl 2-(dimethylaminomethyleneamino)benzoate | CN(C)C=NC1=C(C(=O)OC)C=CC=C1 | C11H14N2O2
